US08034895B2
Synthesis of bis((thiophen-2-yl)methylene)-9H-fluorene-2,7-diamine
2-Thiophenecarboxaldehyde (131 mg, 1.2 mmol) was added to 2,7-diaminofluorene (100 mg, 0.51 mmol) in anhydrous isopropanol and refluxed for 2 days with a catalytic amount of TFA. The solvent was evaporated and no further purification was required. The title compound was obtained as a yellow powder. (196 mg, mmol, 100%) M.p.: 201° C. 1H-NMR (300 MHz, [D] DMSO): δ=7.88 (d, 2H, 3J=11 Hz), 7.81 (d, 2H, 3J=6.5), 7.69 (d, 2H, 3J=4), 7.50 (s, 2H), 7.30 (d, 2H, 3J=11 Hz), 7.22 (t, 2H, 3J=5.0 Hz), 3.96 (s, 2H). 13C-NMR (300 MHz, [D] DMSO): δ=152.91, 148.43, 142.22, 139.53, 129.74, 127.43, 127.10, 125.82, 123.63, 120.34, 36.52. HR-MS: m/z target 385.08277, measured 385.08388, mass error (ppm) 2.89. C.V. −1.36, −0.77, −0.10, 1.27 V. In 0.1 M TBAPF6 as supporting electrolyte in degassed anhydrous acetonitrile λmax=381 nm. λem=318 and 606 nm. Eg=452 nm, 63.23 Kcal/mol. ΔE=298.8 nm, 95.65 Kcal/mol.

reactant | 2-Thiophenecarboxaldehyde | 1.2 mmol, 131 mg | S1C(=CC=C1)C=O | C5H4OS
reactant | 2,7-diaminofluorene | 0.51 mmol, 100 mg | NC1=CC=2CC3=CC(=CC=C3C2C=C1)N | C13H12N2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | bis((thiophen-2-yl)methylene)-9H-fluorene-2,7-diamine | S1C(=CC=C1)C=NC1=CC=C2C=3C=CC(=CC3CC2=C1)N=CC=1SC=CC1 | C23H16N2S2
